US08604069B2
(A-75-6) 3-(2-Ethylbutyl)-1-cyclobutenecarboxylic acid
Ethyl 3-(2-ethylbutyl)-2-piperidin-1-ylcyclobutanecarboxylate (132 g) and methyl p-toluenesulfonate (41.0 mL) were mixed. The mixture was stirred at 100° C. for 3.5 hr. After an addition of water (70 mL), the mixture was washed with tert-butyl methyl ether/heptane=1/1 (120 mL). To the aqueous layer was added aqueous 8 N potassium hydroxide (140 mL). The mixture was stirred at 105° C. for 3 hr. The reaction mixture was washed with tert-butyl methyl ether (150 mL). The organic layer was extracted with water (50 mL). To the combined aqueous layer was added concentrated hydrochloric acid (105 mL) at ice temperature. The aqueous layer was extracted with ethyl acetate (250 mL×2). The combined organic layer was washed with water (100 mL) and brine (100 mL), then dried over sodium sulfate. The sodium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (39.0 g) as a crude product.

reactant | Ethyl 3-(2-ethylbutyl)-2-piperidin-1-ylcyclobutanecarboxylate | 132 g | C(C)C(CC1C(C(C1)C(=O)OCC)N1CCCCC1)CC | C18H33NO2
reactant | methyl p-toluenesulfonate | 41.0 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | water | 70 mL | O | H2O
product | 3-(2-Ethylbutyl)-1-cyclobutenecarboxylic acid | 39.0 g | C(C)C(CC1C=C(C1)C(=O)O)CC | C11H18O2
